US07087626B2
N-{3-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-acetamide
To a solution of 3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propylamine (25 mg, 0.06 mmol) in pyridine (1 mL) at room temperature is added acetic anhydride (500 μL, 5.3 mmol). The mixture is stirred for 2 h, concentrated in vacuo, and the residue chromatographed on SiO2 (89% dichloromethane 10% methanol 1% concentrated ammonium hydroxide) to yield the title compound, 12 mg (47%), as a light brown solid

reactant | 3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propylamine | 0.06 mmol, 25 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCCCN | C23H23N5O
reactant | acetic anhydride | 5.3 mmol, 500 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-acetamide | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCCCNC(C)=O | C25H25N5O2
